US07790720B2
To a solution of methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate i105 (6.13 mmol, 1 eq, 2 g) in tetrahydrofuran (60 ml) is added methanol (19.6 mmol, 3.2 eq, 0.8 ml) and lithium borohydride (13.49 mmol, 2.2 eq, 0.29 g). The mixture is stirred at 75° C. overnight. 1 N aqueous hydrogen chloride (2 ml) is added and the mixture is then stirred at room temperature for 1 hour. Then, a 2 M aqueous sodium hydroxide solution is added to reach pH 12 and the mixture is stirred for 6 hours, then extracted twice with ethyl acetate. The organic layer is dried over magnesium sulfate and the solvent is removed under reduced pressure to give 1.65 g of {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}methanol i109 as a white solid.

reactant | methyl 2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazole-5-carboxylate | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)OC | C15H16ClNO3S
reactant | methanol | 19.6 mmol, 0.8 ml, 3.2 eq | CO | CH4O
reactant | lithium borohydride | 13.49 mmol, 0.29 g, 2.2 eq | [BH4-].[Li+]
reactant | hydrogen chloride | 1 N, 2 ml | Cl | ClH
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}methanol | 1.65 g, Yield: 91% | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)CO | C14H16ClNO2S
